US06110962
(2-Benzyl-benzofuran-3-yl)-(4-methoxy-phenyl)-methanone
Tin tetrachloride (6.5 mL, 55.5 mmol) was added dropwise over a 30 minute period to a stirred solution of 2-benzyl-benzofuran (10.0 g, 48.01 mmol), anisoyl chloride (8.51 g, 49.93 mmol) and carbon disulfide (53 mL) at room temperature under a dry nitrogen atmosphere. After 15 h the reaction mixture was added to water and extracted with dichloromethane. Silica gel was added to the dichloromethane phase and the solvent was removed. The adsorbate was flash chromatographed (95:5 petroleum ether:ethyl acetate as eluent) to provide the title compond as a white solid (13.84 g, 84%): mp 84-85° C.: NMR (CDCl3); δ7.87 (dm, J=9 Hz, 2 H), 7.46 (dm, 1 H), 7.36-7.12 (m, 8 H), 6.97 (dm, J=9 Hz, 2 H), 4.29 (s, 2 H), 3.90 (s, 3 H): MS (EI):

reactant | Tin tetrachloride | 55.5 mmol, 6.5 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-benzyl-benzofuran | 48.01 mmol, 10.0 g | C(C1=CC=CC=C1)C=1OC2=C(C1)C=CC=C2 | C15H12O
reactant | anisoyl chloride | 49.93 mmol, 8.51 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | carbon disulfide | 53 mL | C(=S)=S | CS2
solvent | water | O | H2O
product | (2-Benzyl-benzofuran-3-yl)-(4-methoxy-phenyl)-methanone | 13.84 g, 84% | C(C1=CC=CC=C1)C=1OC2=C(C1C(=O)C1=CC=C(C=C1)OC)C=CC=C2 | C23H18O3
